US04298538
A solution of 5 g. of 16-dimethylaminomethylene-3-methoxy-1,3,5(10)-estratrien-17-one in 150 ml. of toluene is combined dropwise at -10° C. with 28.5 ml. of a 5% solution of methyllithium in ether. After this dropwise addition, the mixture is agitated for 15 minutes at -10° C.; then about 10 ml. of water is gently added in drops, and the reaction solution is poured into about 200 ml. of 0.5 N hydrochloric acid. The organic phase is separated, dried over sodium sulfate, and concentrated under vacuum. After crystallization of the residue from ethyl acetate/ether, 3.9 g. of 16-ethylidene-3-methoxy-1,3,5(10)-estratrien-17-one is obtained, m.p. 139°-140° C.

reactant | 16-dimethylaminomethylene-3-methoxy-1,3,5(10)-estratrien-17-one | CN(C)C=C1C([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C22H29NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methyllithium | C[Li]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 16-ethylidene-3-methoxy-1,3,5(10)-estratrien-17-one | C(C)=C1C([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C21H26O2
